datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]2CC[C:22]([O-:23])=[C:21]2C)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].[CH:10](=[C:11]=[N-:12])[C:61]#[N:62]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]([C:11]#[N:12])[C:61]#[N:62] 10,11=10,20;12=11,12;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:11](=[CH2:10])[CH:62]=[CH2:63]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH2:10][C+:11](C)[CH:62]=[CH2:63])[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C@H](C3=CC=CC=C3)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCOCC3)[CH:62]=[CH:61]2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1([I+:61]C2=CC=CC=C2)[C:11](=[O:12])CC(C)(C)C[C:91]1=[O:92])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C=C(C)CCC[C:11](C)=[CH2:10].CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>C=C(C)CCC[C+:11](C)[CH2:10][CH2:20][C:21](C)=[C:22]([O-:23])[O:33]CC 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[C:64]1=[CH:63][CH:62]=[C:61]([S:10][C:20]([S-:21])=[N:31]C2=CC=CC=C2)[CH:72]=[CH:73]1 10=20;20,21=21"
"C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[C:20]1(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72]>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]([CH:21]=[C:22](C1=[N+](C2=C(C)C=C(C)C=C2C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[C:11]1=[CH:10]CCC1>>C[C+:11]1CCC[CH:10]1[C:20]([S-:21])=[N:31]C1=CC=CC=C1 10,11=10,20;20,21=21"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC[O:82][C:71]([C-:10]1CCCCCCCCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([CH:20]([CH:21]=[CH:22][N:23](CC2=CC=CC=C2)CC2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCCCCCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](OC)[CH:73]=[CH:72]2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
